US09227956B2
Step 2: 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid
To a mixture of the compound form Step 1 ethyl 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoate (64 g, 0.24 mol) in MeOH (1 L) was added an aqueous solution of sodium hydroxide (600 mL, 1.2 mol, 2 M). The mixture was heated at 50° C. for 3 h. The mixture was then concentrated to remove the volatiles. The resulting suspension was diluted with water, and aqueous HCl (1 N) was added dropwise until pH 4. The acidified suspension was filtered, and the solids were collected and dried to give the title compound (57 g, 99%) as a yellow solid.

reactant | ethyl 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoate | 0.24 mol, 64 g | N1=CC(=C2N1C=CC=N2)C2=CC=C(C(=O)OCC)C=C2 | C15H13N3O2
reactant | sodium hydroxide | 1.2 mol, 2 M, 600 mL | [OH-].[Na+]
solvent | MeOH | 1 L | CO | CH4O
product | 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid | 57 g, 99% | N1=CC(=C2N1C=CC=N2)C2=CC=C(C(=O)O)C=C2 | C13H9N3O2
